US04895860
Step (4) Preparation of N'-Hydroxy-(5-bromo-1H-3-indolyl)ethanimidamide
To a solution of sodium methoxide (16.92 mL, 0.074 mol, 25 wt %/methanol) in methanol (120 mL) was added powdered hydroxylamine hydrochloride (5.66 g, 0.0814 mol). The mixture was heated at reflux for 1 hour. 5-Bromo-3-indolylacetonitrile (8.8 g, 0.37 mol) was added and refluxing was continued overnight. Refluxing was continued for a further 3 hours. The reaction was cooled to room temperature and concentrated under reduced pressure to obtain a pale yellow solid. The solid was suspended in water (100 mL), stirred for 1/2 hour, filtered, air dried and stirred in ether (40 mL) to give 7.91 g (71%) of product as a white solid.

reactant | sodium methoxide | 0.074 mol, 16.92 mL | C[O-].[Na+]
reactant | hydroxylamine hydrochloride | 0.0814 mol, 5.66 g | Cl.NO
reactant | 5-Bromo-3-indolylacetonitrile | 0.37 mol, 8.8 g | BrC=1C=C2C(=CNC2=CC1)CC#N | C10H7BrN2
solvent | methanol | 120 mL | CO | CH4O
solvent | water | 100 mL | O | H2O
product | N'-Hydroxy-(5-bromo-1H-3-indolyl)ethanimidamide | 7.91 g, 71% | ON=C(CC1=CNC2=CC=C(C=C12)Br)N | C10H10BrN3O
